US07569600B2
1-(1,4-dioxa-spiro[4.5]dec-8-yl)-1H-[1,2,4]triazole (379 mg, 1.81 mmol) was dissolved in a 1:1 mixture of THF and 3N HCl aqueous solution (9 mL). The resulting mixture was stirred at 40° C. for 5 h. Most of the THF was removed under vacuum then the remaining mixture was neutralized using a 3N NaOH aqueous solution until a basic pH was reached. It was extracted with 3 portions of 10 mL of dichloromethane. The organic portions were combined, dried over anhydrous Na2SO4 and concentrated to afford 4-[1,2,4]triazol-1-yl-cyclohexanone as a white waxy solid (257 mg, 86%).

reactant | 1-(1,4-dioxa-spiro[4.5]dec-8-yl)-1H-[1,2,4]triazole | 1.81 mmol, 379 mg | O1CCOC12CCC(CC2)N2N=CN=C2 | C10H15N3O2
solvent | THF | C1CCOC1 | C4H8O
solvent | HCl | 3N, 9 mL | Cl | ClH
product | 4-[1,2,4]triazol-1-yl-cyclohexanone | N1(N=CN=C1)C1CCC(CC1)=O | C8H11N3O
